US08138377B2
D. Synthesis of 5-naphthalen-2-yl-bicyclo[3.1.0]hexan-2-one
A solution of 5-(naphthalen-2-yl)bicyclo[3.1.0]hexan-2-ol (2.35 g, 10.5 mmol) in dichloromethane (110 mL) was treated with pyridine (1.18 mL, 14.6 mmol, 1.4 eq.) followed by Dess-Martin periodinane (5.34 g, 12.6 mmol, 1.2 eq.) and warmed to ambient temperature. After 2 h, 3 drops of water were added. After 0.5 h, the reaction was quenched with saturated sodium hydrogen carbonate (50 mL), saturated sodium sulphite (50 mL) and extracted with dichloromethane (3×50 mL). The combined organic extracts was dried over magnesium sulphate and concentrated in vacuo. Purification by silica gel chromatography using 1:6 ethyl acetate/petrol as the eluting solvent afforded the desired compound (1.44 g, 62%) as a yellow solid. 1H NMR (400 MHz, CDCl3) δ ppm 1.56-1.58 (1H, m, CH), 1.71-1.75 (1H, m, CH), 2.22-2.25 (1H, m, CH), 2.30-2.34 (2H, m, CH2), 2.44-2.57 (2H, m CH2), 7.34 (1H, dd, J 1.9, 8.5, ArH), 7.44-7.51 (2H, m, ArH), 7.72-7.73 (1H, m, ArH), 7.80-7.83 (3H, m, ArH).

reactant | 5-(naphthalen-2-yl)bicyclo[3.1.0]hexan-2-ol | 10.5 mmol, 2.35 g | C1=C(C=CC2=CC=CC=C12)C12CCC(C2C1)O | C16H16O
reactant | pyridine | 14.6 mmol, 1.18 mL, 1.4 eq. | N1=CC=CC=C1 | C5H5N
reactant | Dess-Martin periodinane | 12.6 mmol, 5.34 g, 1.2 eq. | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 110 mL | ClCCl | CH2Cl2
catalyst | water | 3 drops | O | H2O
product | 5-naphthalen-2-yl-bicyclo[3.1.0]hexan-2-one | 1.44 g, 62% | C1=C(C=CC2=CC=CC=C12)C12CCC(C2C1)=O | C16H14O
